US06069156
A mixture of 3-isobutyryl-2-propylindole-6-carboxamide (100 mg), 4-chlorobenzyl bromide (113 mg) and potassium carbonate (152 mg) in dimethylformamide (2 ml) was heated at 60° C. for 2 hours, and partitioned between ethyl acetate and water. The organic layer was washed with water and brine, and dried over magnesium sulfate. After evaporation of solvent, the residue was crystallized from a mixture of ethyl acetate and hexane. The crude crystals were recrystallized from a mixture of ethyl acetate and hexane to give 1-(4-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxamide (97 mg) as colorless crystals.

reactant | 3-isobutyryl-2-propylindole-6-carboxamide | 100 mg | C(C(C)C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)N)CCC | C16H20N2O2
reactant | 4-chlorobenzyl bromide | 113 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-(4-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxamide | 97 mg | ClC1=CC=C(CN2C(=C(C3=CC=C(C=C23)C(=O)N)C(C(C)C)=O)CCC)C=C1 | C23H25ClN2O2
